### ISSUE TITLE
Can't get basic helloworld to work

### ISSUE THREAD

**Issue by FruitfulApproach** [oOo0oOo/leanclient#3]
![Image](https://github.com/user-attachments/assets/fe420d06-62c6-4c0d-b0bc-2844a02413b3)

Used the example on the first page of the documentation.

My Lean4Test project sits at:

"C:\Users\fruit\OneDrive\Desktop\MathProjects\New folder (2)\Lean4Test"

And I put in:

"Lean4Test/Basic.lean"  for file_path

This is with a freshly created standalone project built using the smart project helper button in VSCode.

Windows 10, 64-bit

Any ideas? 

BTW, thanks for making this library!  Perhaps some examples with actual mathematical content would be nice.

**Comment by FruitfulApproach** [comment]
I simplified the project location, putting it this time on C:/Lean4Projects/Test1/Test1/Basic.lean all with forward slashes in the Python code.  Same issue occurs.    Seems like it can't connect to the language server, though my VSCode/Lean4 extension + Mathlib4 is working fine on its own.

**Comment by FruitfulApproach** [comment]
```
import leanclient as lc

# Start a new client, point it to your lean project root (where lakefile.toml is located).
PROJECT_PATH = r"C:/Lean4Projects/Test1/"
client = lc.LeanLSPClient(PROJECT_PATH)

# Query a lean file in your project
file_path = "Test1/Basic.lean"
result = client.get_goal(file_path, line=1, character=2)
print(result)

# Use a SingleFileClient for simplified interaction with a single file.
sfc = client.create_file_client(file_path)
result = sfc.get_term_goal(line=1, character=2)
print(result)

# Make a change to the document.
change = lc.DocumentContentChange(text="-- Adding a comment at the head of the file\n", start=[0, 0], end=[0, 0])
sfc.update_file(changes=[change])

# Check the document content as seen by the LSP (changes are not written to disk).
print(sfc.get_file_content())

# Use a LeanClientPool for easy parallel processing multiple files.
files = ["Test1/Basic.lean"]

# Define a function that takes a SingleFileClient as its only parameter.
def count_tokens(client: lc.SingleFileClient):
   return len(client.get_semantic_tokens())

with lc.LeanClientPool(PROJECT_PATH, num_workers=8) as pool:
   results = pool.map(count_tokens, files)

   # Or use pool.submit() for increased control.
   futures = [pool.submit(count_tokens, path) for path in files]
   res_fut = [f.get() for f in futures]

print(results)
```

Here is the code I used

**Comment by oOo0oOo** [comment]
Hi, 

I have managed to reproduce your error but unfortunately do not have time to analyze and fix it today.

Steps to reproduce:

More or less up to date Windows 10 Home.

Lean Setup:

1. New project folder, in my case: C:\Users\odres\Code\Lean4Test\
2. Setup new Lean project using the VS Code extension "Project: Create Project using Mathlib..." in C:\Users\odres\Code\Lean4Test\Test1\
3. Confirm that VSCode Extension works by opening C:\Users\odres\Code\Lean4Test\Test1\Test1\Basic.lean and checking InfoView

Python Setup:

From the path in your screenshot I assumed you have a standard Python installation (not conda, wsl or other).

1. Install Python 3.13.3 using installer from python.org
2. Create virtual env (in VSCode): Ctrl+Shift+P > Python Create Environment... > Venv > Find interpreter. Mine was at C:\Users\odres\AppData\Local\Programs\Python\Python313\python.exe
3. Install leanclient using pip (in Terminal in VSCode): `pip install leanclient`
4. Setup main.py and adjust the path.

--> Same error
```
Exception has occurred: OSError
[WinError 10038] An operation was attempted on something that is not a socket
  File "C:\Users\odres\Code\Lean4Test\main.py", line 5, in <module>
    client = lc.LeanLSPClient(PROJECT_PATH)
OSError: [WinError 10038] An operation was attempted on something that is not a socket
```

Thanks for letting me know! I will have a detailed look tomorrow and report back.

**Comment by oOo0oOo** [comment]
Windows support required some larger changes since pipes are not available.

I have released a new version with partial support. LeanClientPool does not work yet but the first part of the example script works. I have adjusted the README to only contain the cross-platform supported part:


```python
import leanclient as lc

# Start a new client, point it to your lean project root (where lakefile.toml is located).
PROJECT_PATH = "path/to/your/lean/project/root/"
client = lc.LeanLSPClient(PROJECT_PATH)

# Query a lean file in your project
file_path = "MyProject/Basic.lean"
result = client.get_goal(file_path, line=0, character=2)
print(result)

# Use a SingleFileClient for simplified interaction with a single file.
sfc = client.create_file_client(file_path)
result = sfc.get_term_goal(line=0, character=5)
print(result)

# Make a change to the document.
change = lc.DocumentContentChange(text="-- Adding a comment at the head of the file\n", start=[0, 0], end=[0, 0])
sfc.update_file(changes=[change])

# Check the document content as seen by the LSP (changes are not written to disk).
print(sfc.get_file_content())
```

Can you run this without errors? (using leanclient version 0.1.9)

**Comment by FruitfulApproach** [comment]
![Image](https://github.com/user-attachments/assets/4b5bb76e-814d-432c-8850-a706085b8553)

This gets past the original error, but looks like programmer error here.

**Comment by oOo0oOo** [comment]
Yes, maybe it's related to the path. Let's do a more interesting example.

If I run this `main.py` on Windows:

```python
import leanclient as lc

PROJECT_PATH = r"C:\\Users\\odres\\Code\\Lean4Test\\Test1"

client = lc.LeanLSPClient(PROJECT_PATH)
file_path = "Test1\\Basic.lean"

for line in range(1, 6):
    goal = client.get_goal(file_path, line, 0)
    print(f"Goals at line {line}:\n{goal["goals"]}")
```

with this `Test1\Basic.lean`:
```lean
theorem add_zero_custom (n : Nat) : n + 0 = n := by
  induction n with
  | zero =>
    rfl
  | succ n' ih =>
    rw [Nat.add_succ, ih]
```

I get this output:

```bash
Build completed successfully.
Goals at line 1:
['n : Nat\n⊢ n + 0 = n']
Goals at line 2:
['n : Nat\n⊢ n + 0 = n']
Goals at line 3:
['case zero\n⊢ 0 + 0 = 0']
Goals at line 4:
[]
Goals at line 5:
["case succ\nn' : Nat\nih : n' + 0 = n'\n⊢ n' + 1 + 0 = n' + 1"]
```

Can you observe the same?

**Comment by FruitfulApproach** [comment]
I changed mine to:

```
import leanclient as lc

PROJECT_PATH = r"C:\\Users\\Lean4Projects\\Test1"

client = lc.LeanLSPClient(PROJECT_PATH)
file_path = "Test1\\Basic.lean"

for line in range(1, 6):
    goal = client.get_goal(file_path, line, 0)
    print(f"Goals at line {line}:\n{goal["goals"]}")
```

And the error I get is:

![Image](https://github.com/user-attachments/assets/140ce872-030a-45ef-bfa1-bd14818bcaa7)

I hovered over `exectutable` and it's set to `None` so...

**Comment by FruitfulApproach** [comment]
You're welcome to TeamViewer into my machine if that will speed up your debug process.  I have an excellent Python debugger: Wing Pro.

**Comment by FruitfulApproach** [comment]
Okay, I had `\\Users\\` in my project location line.  I changed it to be without `Users\\` and now get this lake build error:

![Image](https://github.com/user-attachments/assets/96960249-3453-462e-9db1-86d410aa35a1)

**Comment by oOo0oOo** [comment]
OK, does `lake build` run in your project directory via commandline?

E.g. I used the terminal in VS Code:

![Image](https://github.com/user-attachments/assets/5e10ebbb-a7ea-44f3-b081-3ef607cad379)

**Comment by FruitfulApproach** [comment]
@oOo0oOo 

No it doesn't build.  But I think that is because we changed the code in Basic.lean:

![Image](https://github.com/user-attachments/assets/93ac56fc-8d19-4e1f-8711-440285056369)

**Comment by FruitfulApproach** [comment]
Okay, I deleted most of Main.lean and now get this upon doing `lake build`:

![Image](https://github.com/user-attachments/assets/9fff071b-7857-48fe-af1a-8fe73a2bc29e)

**Comment by oOo0oOo** [comment]
My project looks like this. I didn't change Test1.lean.

![Image](https://github.com/user-attachments/assets/c7f536a2-b6e1-4f3c-9651-62cd47265b9c)
